datasets/10k_Mayr_OG.csv
SMILES Labelled
CC[O:82][C:71]([C-:10](F)[C:61](=[O:62])[O:92]CC)=[O:72].CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC[O:82][C:71]([C:10](F)([CH:20]([C:31]1=[CH:32][C:33]2=[C:34](N(C)CC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CC2)[CH:45]=[CH:46]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20
"CC1(C)C[C:61](=[O:62])[N-:10][C:71](=[O:72])C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CC1(C)C[C:61](=[O:62])[N:10]([CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)[C:71](=[O:72])C1 10=20;20,21=21,22;22,23=23"
"C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F.C[S:11](C)=[CH:10][C:61](C1=CC=C(Br)C=C1)=[O:62]>>C[N-:21]C1=CC=CC=C1.C[S+:11](C)[CH:10]([S:20]C(F)(F)F)[C:61](C1=CC=C(Br)C=C1)=[O:62] 10,11=10,20;20,21=21"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[C:10](=[C:11]=[N-:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81]>>C[C:22]1=[C:21]([CH:20]([C:10]([C:11]#[N:12])([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:81])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[CH:11][O-:12])C=C1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([CH:10]([CH:11]=[O:12])[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[OH:10].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC[OH+:10][CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CN(C)C1=CC=C(C[C:10]2([S:20]C(F)F)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20;20,21=21,22;22,23=23"
"C[C:63]([NH:12][C:11](C1=CCCCC1)=[CH2:10])=[O:64].FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:63]([NH+:12]=[C:11](C1=CCCCC1)[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C2=CC=CC=C2)[CH:45]=[CH:46]1)=[O:64] 10,11=10,20;12=11,12"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CN(C)C1=CC=C(C[C:10]2=[C:11]([O-:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1(CC2=CC=C(N(C)C)C=C2)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]1=[O:62])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:63]2[C:62]([C:81]([C-:10](C)C3=CC=CC=C3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)(C2=CC=CC=C2)[C:81]([C:62]2=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64](C3=CC=CC=C3)[N:63]2C2=C(C)C=C(C)C=C2C)=[O:82])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.CC(C)[Si:63](C(C)C)(C(C)C)[O:12][CH:11]=[CH2:10]>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[CH:11][CH2:10][C:20]1([C:41]2=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10,11=10,20;12=11,12"
"C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20"
